US06812236B2
1-Hexyl-3,4-dimethyl-4-(3-(2-hydroxyethyl)phenyl)-piperidine
To a stirred solution of 1-hexanoyl-3,4-dimethyl-4-(3-vinylphenyl)-piperidine (Preparation 8, 50 mg, 0.16 mmol) in bis(2-methoxyethyl)ether (1.5 mL) at 0° C. under nitrogen was added dropwise borane (1.0 M in tetrahydrofuran, 0.35 mL, 0.35 mmol). The reaction mixture was stirred at 0° C. for 30 minutes and then for 2 hours at room temperature. Trimethylamine N-oxide (48 mg, 0.64 mmol) was subsequently added and the reaction mixture heated at reflux under a nitrogen atmosphere for 2 hours. To the cooled reaction was then added diethyl ether (10 mL) and saturated aqueous sodium chloride solution (10 mL). The phases were separated and the aqueous layer was further extracted with diethyl ether (10 mL). The combined organics were dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography on silica gel (1.5 g) eluted with ethyl acetate:hexane (50:50) to give the title compound as an oil (30 mg).

reactant | 1-hexanoyl-3,4-dimethyl-4-(3-vinylphenyl)-piperidine | 0.16 mmol, 50 mg | C(CCCCC)(=O)N1CC(C(CC1)(C1=CC(=CC=C1)C=C)C)C | C21H31NO
reactant | borane | 0.35 mmol, 1.0 M, 0.35 mL | B | BH3
reactant | Trimethylamine N-oxide | 0.64 mmol, 48 mg | C[N+](C)(C)[O-] | C3H9NO
reactant | sodium chloride | 10 mL | [Cl-].[Na+]
solvent | bis(2-methoxyethyl)ether | 1.5 mL | COCCOCCOC | C6H14O3
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | 1-Hexyl-3,4-dimethyl-4-(3-(2-hydroxyethyl)phenyl)-piperidine | 30 mg | C(CCCCC)N1CC(C(CC1)(C1=CC(=CC=C1)CCO)C)C | C21H35NO
